US06503910B1
8-Acetylthiomethyl-1,4-dioxaspiro[4.5]decane-8-carboxylic Acid Ethyl Ester
Potassium thioacetate (1.0 g) was added to a solution of 8-bromomethyl-1,4-dioxa-spiro[4.5]decane-8-carboxylic acid ethyl ester (1.0 g) in DMF (30 ml) and the solution was heated at 80° C. for 4 h. The mixture was then added to water (100 ml) and extracted with ether. The solvent was washed with water, bicarbonate solution and brine, then dried (MgSO4) and evaporated to give the title compound (1.0 g) as colourless oil.

reactant | Potassium thioacetate | 1.0 g | C(C)(=S)[O-].[K+]
reactant | 8-bromomethyl-1,4-dioxa-spiro[4.5]decane-8-carboxylic acid ethyl ester | 1.0 g | C(C)OC(=O)C1(CCC2(OCCO2)CC1)CBr | C12H19BrO4
reactant | water | 100 ml | O | H2O
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 8-Acetylthiomethyl-1,4-dioxaspiro[4.5]decane-8-carboxylic Acid Ethyl Ester | 1.0 g | C(C)OC(=O)C1(CCC2(OCCO2)CC1)CSC(C)=O | C14H22O5S
